* Split-supply divider exercising NAMED voltage rails.
*
* The rail-direction convention ("signals to a positive supply go up,
* signals to ground go down, a negative rail goes lower still") must be
* driven by the `*@power=` tag, not by the literal names `vcc` / `0`.
* Here the positive rail is `p5` and the negative rail is `n5` — neither
* matches a canonical supply name — so the only thing that can classify
* them is `;@ power=+5V` / `;@ power=-5V`.
*
* Expected reading of the emitted sheet:
*   RPU  hangs UP   from `out` to the +5V rail
*   RPD  hangs DOWN from `out` to the -5V rail
*   CL   hangs DOWN from `out` to ground
* and all three sit in the column of `out`.

*@symbol Device:R_US for=R*
*@symbol Device:C    for=C*

VPOS p5 0 DC  5    ;@ power=+5V
VNEG n5 0 DC -5    ;@ power=-5V
VIN  in 0 AC  1    ;@ ignore

RIN in  out 1k
RPU p5  out 10k
RPD out n5  10k
CL  out 0   10n

.ac dec 10 1 1Meg
.end
